US07087605B2
N-[1-(3-Cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide
In analogy to the procedure for Example 36A, 250 mg (1.29 mmol) 6-(1-aminopropyl)-3-cyclopropyl-1,2,4-triazin-5(4H)-one, 150 mg (1.29 mmol) cyclobutanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopropyl-1,2,4-triazin-5(4H)-one | 1.29 mmol, 250 mg | NC(CC)C=1C(NC(=NN1)C1CC1)=O | C9H14N4O
reactant | cyclobutanecarbonyl chloride | 1.29 mmol, 150 mg | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-[1-(3-Cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide | C1(CC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCC1 | C14H20N4O2
